US04126687
A mixture of 2.3 parts of 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one, 2.15 parts of 1,3-dihydro-1-(1,2,3,6-tetrahydro-4-pyridinyl)-2H-benzimidazol-2-one, 3.2 parts of sodium carbonate, 0.1 parts of potassium iodide and 80 parts of 4-methyl-2-pentanone is stirred and refluxed for 48 hours. After cooling to room temperature, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 10% of methanol is eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of N,N-dimethylformamide and water, yielding 2.5 parts (64.5%) of 1-{3-[3,6-dihydro-4-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-1-(2H)-pyridinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 206.6° C.

reactant | 1-(3-chloropropyl)-1,3-dihydro-2H-benzimidazol-2-one | ClCCCN1C(NC2=C1C=CC=C2)=O | C10H11ClN2O
reactant | 1,3-dihydro-1-(1,2,3,6-tetrahydro-4-pyridinyl)-2H-benzimidazol-2-one | N1CCC(=CC1)N1C(NC2=C1C=CC=C2)=O | C12H13N3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{3-[3,6-dihydro-4-(1,3-dihydro-2-oxo-2H-benzimidazol-1-yl)-1-(2H)-pyridinyl]propyl}-1,3-dihydro-2H-benzimidazol-2-one | 64.5% | O=C1NC2=C(N1C=1CCN(CC1)CCCN1C(NC3=C1C=CC=C3)=O)C=CC=C2 | C22H23N5O2
